US06927222B2
i) 1-(tert-Butyl) 2-methyl (2S,4R)-4-hydroxy-1,2-pyrrolidinedicarboxylate
In a flask was dissolved (2S,4R)-4-Hydroxy-proline hydrochloride (5.4 g, 30 mmole) in a mixture of THF (200 ml), water (170 ml) and NaOH (30 ml, 2 M in water, 60 mmole). To this emulsion was added di-tert-butyldicarbonate (Boc2O, 6.54 g, 30 mmole), and the mixture was stirred vigorously for 1 hour. Ether (100 ml) was added and the phases were allowed to separate. The aqueous phase was extracted with an additional 100 ml of ether. The aqueous phase was discarded and the combined organic phases were washed with 1M HCl (aq.) and potassium carbonate (saturated, aq.) and brine. The extract was dried with Na2SO4 and was concentrated in vaccuo to give a residue, which was purified on silica (Heptane:EtOAc 5:1 to 3:1 to 1:1 stepwise gradient, spots visualized with I2/MeOH). Evaporation of pure fractions were concentrated in vaccuo to give 4.2 g (57%) of the subtitle compound as a colorless oil.

reactant | (2S,4R)-4-Hydroxy-proline hydrochloride | 30 mmole, 5.4 g | Cl.O[C@@H]1C[C@H](NC1)C(=O)O
reactant | water | 170 ml | O | H2O
reactant | NaOH | 60 mmole, 2 M, 30 ml | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 30 mmole, 6.54 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 200 ml | C1CCOC1 | C4H8O
solvent | Ether | 100 ml | CCOCC | C4H10O
product | 1-(tert-Butyl) 2-methyl (2S,4R)-4-hydroxy-1,2-pyrrolidinedicarboxylate | 4.2 g, 57% | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H19NO5
